US09193935B2
1-Methoxy-4-(4-nnethyltridec-2-enyl)benzene
p-Methoxyphenethyltriphenylphosphonium bromide (3.40 g, 7.12 mmol, 1.0 equiv.) in THF (14 mL), was cooled to 0° C. After adding n-BuLi (1.6 M in hexanes, 4.5 mL, 7.12 mmol, 1.0 equiv.) at 0° C., the red solution was stirred at 65° C. for 1 h. The mixture was re-cooled to 0° C., 2-methylundecanal (1.97 g, 10.7 mmol, 1.5 equiv.) in THF (6 mL) was added, and the mixture was stirred at 70° C. for 14 h. After addition of H2O, the aqueous layer was extracted with cyclohexane (2×), the combined organic phases were washed with brine, dried (MgSO4), filtered and the filtrate was concentrated. The residue was purified by flash chromatography on SiO2 (cyclohexane/EtOAc 98:2) to yield 1.36 g (63%) of the title compound as a light yellow oil.

reactant | p-Methoxyphenethyltriphenylphosphonium bromide | 7.12 mmol, 3.40 g, 1.0 equiv. | [Br-].COC1=CC=C(CC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | n-BuLi | 7.12 mmol, 1.6 M, 4.5 mL, 1.0 equiv. | [Li]CCCC
reactant | 2-methylundecanal | 10.7 mmol, 1.97 g, 1.5 equiv. | CC(C=O)CCCCCCCCC | C12H24O
reactant | H2O | O | H2O
solvent | THF | 14 mL | C1CCOC1 | C4H8O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 1-Methoxy-4-(4-nnethyltridec-2-enyl)benzene | 1.36 g, 63% | COC1=CC=C(C=C1)CC=CC(CCCCCCCCC)C | C21H34O
